US04115568
Ethyl 2-(2-amino-4-nitroanilino)-5-ethyl-thiophene-3-carboxylate
Ethyl 2-(2,4-dinitroanilino)-5-ethyl-thiophene-3-carboxylate (0.5 g) in 6N ammonia (25 ml) and ethanol (10 ml) was stirred at reflux temperature and hydrogen sulphide gas passed in over a period of 2 hours. The reaction mixture was cooled to room temperature and the title compound obtained as a yellow precipitate filtered off, washed with water, and dried in vacuo, m.p. 174°-176° C. (EtOAc).

reactant | Ethyl 2-(2,4-dinitroanilino)-5-ethyl-thiophene-3-carboxylate | 0.5 g | [N+](=O)([O-])C1=C(NC=2SC(=CC2C(=O)OCC)CC)C=CC(=C1)[N+](=O)[O-] | C15H15N3O6S
reactant | hydrogen sulphide | S | H2S
solvent | ammonia | 6N, 25 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 2-(2-amino-4-nitroanilino)-5-ethyl-thiophene-3-carboxylate | NC1=C(NC=2SC(=CC2C(=O)OCC)CC)C=CC(=C1)[N+](=O)[O-] | C15H17N3O4S
